US07741322B2
Step D: (±)-Benzyl 3-(6-methoxy-2-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl)piperidine-1-carboxylate
To an isopropanol-dry ice cooled solution of 4-methoxy-N-methyl-2-(phenylmethyl)benzamide (500 mg, 1.96 mmol) in tetrahydrofuran (90 mL) was added dropwise a 1.3 M solution of sec-butyllithium (3.09 mL, 4.02 mmol). After 15 min. a solution of (±)-benzyl-3-(chlorocarbonyl)piperidine-1-carboxylate (550 mg, 1.96 mmol) in tetrahydrofuran (10 mL) was added. After 0.5 hours the contents of the reaction flask were first warmed to room temperature and then the solvent was removed in vacuo. The resulting mixture was treated with 1 M hydrochloric acid and extracted (3×) with ethyl acetate. The combined organic extracts were dried with anhydrous sodium sulfate, filtered and evaporated in vacuo. Trifluoroacetic acid (1 mL) was added and the resulting solution stirred 10 min. The reaction was quenched with water and made basic with saturated sodium bicarbonate. Extracted with ethyl acetate (3×), dried combined organic extracts with anhydrous sodium sulfate and removed solvent in vacuo to give a white foam. Flash column chromatography (50% EtOAc/hexane) afforded the title compound as a white foam. Proton NMR for the product was consistent with the titled compound. ESI+MS: 483.3 [M+H]+.

reactant | isopropanol dry ice | C(C)(C)O.C(=O)=O
reactant | 4-methoxy-N-methyl-2-(phenylmethyl)benzamide | 1.96 mmol, 500 mg | COC1=CC(=C(C(=O)NC)C=C1)CC1=CC=CC=C1 | C16H17NO2
reactant | sec-butyllithium | 4.02 mmol, 3.09 mL | C(C)(CC)[Li]
reactant | (±)-benzyl-3-(chlorocarbonyl)piperidine-1-carboxylate | 1.96 mmol, 550 mg | C(C1=CC=CC=C1)OC(=O)N1CC(CCC1)C(=O)Cl | C14H16ClNO3
solvent | tetrahydrofuran | 90 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | EtOAc hexane | CCOC(=O)C.CCCCCC
product | (±)-Benzyl 3-(6-methoxy-2-methyl-1-oxo-4-phenyl-1,2-dihydroisoquinolin-3-yl)piperidine-1-carboxylate | COC=1C=C2C(=C(N(C(C2=CC1)=O)C)C1CN(CCC1)C(=O)OCC1=CC=CC=C1)C1=CC=CC=C1 | C30H30N2O4
